US07645757B2
3.2. 5-(naphth-1-yl)pent-4-yn-1-yl methanesulphonate
A solution of 0.85 g (7.42 mmol) of methanesulphonyl chloride in 5 ml of dichloromethane is added dropwise to a solution, cooled with an ice bath, of 1.2 g (5.71 mmol) of 5-(naphth-1-yl)pent-4-yn-1-ol, obtained in stage 3.1., and of 1.6 ml (11.4 mmol) of triethylamine in 12 ml of dichloromethane. The mixture is stirred at 0° C. for 1 hour and then at ambient temperature for 2 hours. 25 ml of water and 75 ml of dichloromethane are subsequently added. The organic phase is separated by settling and is washed with 25 ml of water and then with 25 ml of a saturated aqueous sodium chloride solution. It is dried over magnesium sulphate and evaporated to dryness to produce 1.68 g of product in the form of an orange oil used directly in the following stage.

reactant | methanesulphonyl chloride | 7.42 mmol, 0.85 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(naphth-1-yl)pent-4-yn-1-ol | 5.71 mmol, 1.2 g | C1(=CC=CC2=CC=CC=C12)C#CCCCO | C15H14O
reactant | triethylamine | 11.4 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | water | 25 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 5-(naphth-1-yl)pent-4-yn-1-yl methanesulphonate | 1.68 g | CS(=O)(=O)OCCCC#CC1=CC=CC2=CC=CC=C12 | C16H16O3S
